US07662402B2
1.6 g of 2-(3,3,3-trifluoropropyl)malononitrile was dissolved in 20 ml of a solution (1 mol/L) of tetrabutylammonium fluoride in tetrahydrofuran, 5 ml of 2-chloro-3,3,3-trifluoropropene was added thereto at 0° C., and the mixture was stirred at room temperature for 3 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.22 g of 2-(2-chloro-3,3,3-trifluoropropyl)-2-(3,3,3-trifluoropropyl)malononitrile (hereinafter, referred to as the present compound (58)).

reactant | 2-(3,3,3-trifluoropropyl)malononitrile | 1.6 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 2-chloro-3,3,3-trifluoropropene | 5 ml | ClC(=C)C(F)(F)F | C3H2ClF3
product | 2-(2-chloro-3,3,3-trifluoropropyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.22 g | ClC(CC(C#N)(C#N)CCC(F)(F)F)C(F)(F)F | C9H7ClF6N2
